US04329470
Crude ethyl 5-(bromomethyl)-1,3-diacetyl-2,3-dihydro-2-oxo-1H-imidazole-4-carboxylate is dissolved in 30% hydrobromic acid in acetic acid and the solution is allowed to stand at room temperature for 4 hours. The solid which precipitates is separated by filtration and dried in vacuo at 80° C. over potassium hydroxide to give ethyl 3-acetyl-5-(bromomethyl)-2,3-dihydro-2-oxo-1H-imidazole-4-carboxylate melting at about 193°-194° C. (dec.).

reactant | ethyl 5-(bromomethyl)-1,3-diacetyl-2,3-dihydro-2-oxo-1H-imidazole-4-carboxylate | BrCC1=C(N(C(N1C(C)=O)=O)C(C)=O)C(=O)OCC | C11H13BrN2O5
solvent | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 3-acetyl-5-(bromomethyl)-2,3-dihydro-2-oxo-1H-imidazole-4-carboxylate | C(C)(=O)N1C(NC(=C1C(=O)OCC)CBr)=O | C9H11BrN2O4
